US06525055B1
4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-2H-phthalazin-1-one
Hydrazine (18.4 ml, 0.378 moles) was added to a suspension of 3-(3,5-dichloro-pyridin-4-ylmethylen)-6-methoxy-3H-isobenzofuran-1-one (24.4 g, 0.126 moles), obtained as described in example 11, in CH3OH (200 ml), under N2. The mixture was heated under reflux for 1 hour, then kept overnight at room temperature, cooled in ice, and the solid was filtered, washed with very cold CH3OH and dried in oven at 50° C. under vacuum, to give 33.3 g of the title compound (yield: 80%). m.p.: 259-262° C.

reactant | Hydrazine | 0.378 moles, 18.4 ml | NN | H4N2
reactant | 3-(3,5-dichloro-pyridin-4-ylmethylen)-6-methoxy-3H-isobenzofuran-1-one | 0.126 moles, 24.4 g | ClC=1C=NC=C(C1C=C1OC(C2=CC(=CC=C12)OC)=O)Cl | C15H9Cl2NO3
solvent | CH3OH | 200 ml | CO | CH4O
product | 4-(3,5-Dichloro-pyridin-4-ylmethyl)-7-methoxy-2H-phthalazin-1-one | 33.3 g, yield: 80% | ClC=1C=NC=C(C1CC1=NNC(C2=CC(=CC=C12)OC)=O)Cl | C15H11Cl2N3O2
